US07253171B2
(S)-3-(4-Amino-phenyl)-2-tert-butoxycarbonylamino propionic acid methyl ester (574 mg, 1.95 mmol), 1-Chloro-2,6-naphthyridine (350 mg, 2.13 mmol) (prepared according to the method of Van der Plas, H. C. et al J. Heterocyclic Chem. 1981, 18, 1349) and DIPEA (372 μl, 2.13 mmol) in 2-ethoxyethanol (0.5 ml) were stirred at 130° C. under N2 overnight. The reaction mixture was partitioned between EtOAc (70 ml) and saturated aqueous NaHCO3 (30 ml). The phases were separated and the aqueous layer re-extracted with EtOAc (3×30 ml). The combined organic extracts were dried (MgSO4) and the solvents eliminated in vacuo. The residue was purified by flash chromatography (5:1 to 1:1 hexanes/EtOAc) to give (S)-2-tert-butoxycarbonylamino-3-[4-([2,6]naphthyridin-1-ylamino)phenyl] propionic acid methyl ester (385 mg, 47%) as an orange foam.

reactant | (S)-3-(4-Amino-phenyl)-2-tert-butoxycarbonylamino propionic acid methyl ester | 1.95 mmol, 574 mg | COC([C@H](CC1=CC=C(C=C1)N)NC(=O)OC(C)(C)C)=O | C15H22N2O4
reactant | 1-Chloro-2,6-naphthyridine | 2.13 mmol, 350 mg | ClC1=NC=CC2=CN=CC=C12 | C8H5ClN2
reactant | DIPEA | 2.13 mmol, 372 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-ethoxyethanol | 0.5 ml | C(C)OCCO | C4H10O2
product | (S)-2-tert-butoxycarbonylamino-3-[4-([2,6]naphthyridin-1-ylamino)phenyl] propionic acid methyl ester | 385 mg, 47% | COC([C@H](CC1=CC=C(C=C1)NC1=NC=CC2=CN=CC=C12)NC(=O)OC(C)(C)C)=O | C23H26N4O4
